US09302989B2
tert-butyl 4-(4-acetamidophenylthio)piperidine-1-carboxylate
To a 10 mL round-bottomed flask was added tert-butyl 4-(4-aminophenylthio)piperidine-1-carboxylate (100 mg, 0.324 mmol) and triethylamine (249 μl, 1.783 mmol) in dichloromethane (3242 μl). The mixture was cooled to −78° C. and acetyl chloride (115 μl, 1.621 mmol) was added. The solution was warmed to room temperature, stirred for 1 h and then diluted with water and additional dichloromethane. The aqueous phase was extracted twice with dichloromethane and the combined organics were dried with sodium sulfate, filtered and concentrated to give the title compound.

reactant | tert-butyl 4-(4-aminophenylthio)piperidine-1-carboxylate | 0.324 mmol, 100 mg | NC1=CC=C(C=C1)SC1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2S
reactant | triethylamine | 1.783 mmol, 249 μl | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.621 mmol, 115 μl | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 3242 μl | ClCCl | CH2Cl2
solvent | water | O | H2O
product | tert-butyl 4-(4-acetamidophenylthio)piperidine-1-carboxylate | C(C)(=O)NC1=CC=C(C=C1)SC1CCN(CC1)C(=O)OC(C)(C)C | C18H26N2O3S
